2195-08-16 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -several episodes of tachycardia overnight to 120s, EKG unchanged.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2195-8-16**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies any chest pain, SOB, stiffness.
   Flowsheet Data as of  [**2195-8-16**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.5
C (97.7
   HR: 105 (81 - 127) bpm
   BP: 136/63(81) {126/55(71) - 150/112(116)} mmHg
   RR: 18 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    360 mL
                                                                    634 mL
   PO:
                                                                    240 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    120 mL
                                                                    454 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                  1,890 mL
   Urine:
                                                                  1,800 mL
                                                                  1,890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,440 mL
                                                                 -1,256 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Labs / Radiology
   363 K/uL
   13.3 g/dL
   79 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   9 mg/dL
   107 mEq/L
   142 mEq/L
   42.1 %
   13.1 K/uL
        [image002.jpg]
                             [**2195-8-15**]  08:17 PM
                             [**2195-8-16**]  04:14 AM
   WBC
   12.6
   13.1
   Hct
   35.3
   42.1
   Plt
   327
   363
   Cr
   0.8
   0.7
   Glucose
   55
   79
   Other labs: PT / PTT / INR:13.3/27.2/1.1, CK / CKMB / Troponin-T:103//,
   LDH:281 IU/L, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Assesment: This is a 20 year-old male with a history of asthma, anxiety
   and recent initiation of antipsychotic medications presenting with
   increasing paranoia, fevers and stiffness.
   .
   Plan:
   # Fever, rigitidy: Patient remained afebrile overnight and his rigidity
   has improved with ativan. Initial presentation concerning for NMS-
   fever, rigidity, tachycardia and elevated BP, and mental status
   changes, namely catatonia/mutism and paranoia. These have largely
   improved. CK have remained stable, LDH increased. Malignant catatonia,
   a psychiatric diagnosis, also presents in this manner. Patient has no
   signs of meningitis on exam, TSH is normal, which make infection and
   thyrotoxicosis less likely. Per psychiatry patients with low serum iron
   studies have worse prognosis in NMS; patient is slightly anemic.
   - IV NS@ 150cc/hr
   - Trend CK, lactate
   - Ativan 0.5-1mg PO q3, 1mg PO PRN and 1mg IV PRN
   - EKG q6h
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count fever curve
   .
   # Paranoia
 Improved since admission with benzo. Will touch base with
   psychiatry prior to transfer/discharge to ensure appropriate follow-up
   and recommendations regarding psych medications. Given patient's
   discontinued use of marijuana this could be due to withdrawal vs. new
   onset schizophrenia (increased risk given first degree relative with
   diagnosis)vs. malignant catatonia. Unlikely to be drug related given
   patient's toxicology is negative. Also unlikely is a primary CNS
   mass/hemorrhage given negative CT.
   -treat as above with benzos, avoid neuroleptics
   -f/u any new psych recommendations
   -psych consult
   # Leukocytosis - Most concerning for infection, given fever and
   tachycardia. Blood and urine cultures were taken in the ED and are
   pending. The patient does not present with any meningeal signs on exam.
   Will continue to monitor his mental status, fever curve and WBC for
   indications of meningitis. He also has a new murmur on exam which has
   not been documented previously.
   -repeat CBC
   -f/u pending cultures
   -ETT to work-up new murmur on exam
   # Asthma - currently stable on exam. Patient taking his own
   albuterol/fluticasone IH.
   .
   # Eczema- restart outpatient topical creams.
   # FEN: IV NS@150cc/hr, monitor electrolytes closely, regular diet as
   tolerated
   .
   # Access: PIV
   .
   # PPx:  heparin SC
   .
   # Code:  presumed full
   .
   # Dispo: ICU care for now  until nursing care appropriate for floor
   .
   # Comm:  [**Name (NI) 2173**] (sister) [**Telephone/Fax (1) 2174**] (home), [**Telephone/Fax (1) 2175**] (cell)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-8-15**] 06:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Physical exam:
   Gen: more guarded this morning, not as interactive, NAD
   HEENT: NCAT MMM anicteric pink conjunctiva
   CV: RRR S1S2 2/6 systolic murmur, nonradiating
   PULM: clear throughout
   ABD: soft nondistended nontender +bs
   EXT:WWP 2+dp pulses
   SKIN: eczema patches over arms, legs
   NEURO: Not responding to some questions this morning, poor eye contact,
   soft voice. Seems more guarded than yesterday. increased tone in R>L
   legs, normal tone in upper extremities. Unclear if patient is compliant
   with exam.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1477**] [**Name8 (MD) 1478**], MD
   on:[**2195-8-16**] 10:22 ------

2195-08-16 09:28:00 Physician Attending Progress Note
Chief Complaint: paranoia, rigidity
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   23 year old male with asthma, prior MJ abuse with 1 month of anxiety
   and paranoia worsening over the past 2 weeks after being started on
   Seroquel
   Had increased rigidity and fevers in the ED felt by both Psychiatry and
   Toxicology to be either NMS or malignant cataonia
   24 Hour Events:
   Admitted to ICU
   Continued on IVF, Ativan 2mg TID
   Several episodes of [**Last Name (un) 531**]
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2195-8-16**] 05:15 AM
   Other medications:
   Heparin SQ
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-8-16**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36
C (96.8
   HR: 126 (81 - 134) bpm
   BP: 143/60(77) {104/55(65) - 150/112(116)} mmHg
   RR: 44 (17 - 44) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    360 mL
                                                                    851 mL
   PO:
                                                                    240 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    120 mL
                                                                    671 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                  2,010 mL
   Urine:
                                                                  1,800 mL
                                                                  2,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,440 mL
                                                                 -1,159 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, More withdrawn than yesterday
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, Hyperdynamic), (S1: Normal), (S2: Normal),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: Eczema ( unchanged), No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Increased, Still with increased tone in LE's potentially slightly worse
   than yesterday's exam. UE tone normal.
   Labs / Radiology
   13.3 g/dL
   363 K/uL
   79 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   9 mg/dL
   107 mEq/L
   142 mEq/L
   42.1 %
   13.1 K/uL
        [image002.jpg]
                             [**2195-8-15**]  08:17 PM
                             [**2195-8-16**]  04:14 AM
   WBC
   12.6
   13.1
   Hct
   35.3
   42.1
   Plt
   327
   363
   Cr
   0.8
   0.7
   Glucose
   55
   79
   Other labs: PT / PTT / INR:12.9/27.3/1.1, CK / CKMB / Troponin-T:103//,
   LDH:281 IU/L, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   23 year old male with asthma, eczema, recent development of anxiety and
   paranoia.
   Worsening paranoia after Seroquel, in combintation with rigid muscle
   tone, fevers, elevated BP's concerning for neuroleptic malignant
   syndrome vs malignant catatonia.
   Throughout the night, he has had intermittent worsening of increased
   tone/tachycardia despite scheduled Ativan. Recurrence at 4 am after
   getting 10 pm dose suggests that Ativan needs to be dosed in shorter
   intervals. Other measures such as CK's, fevers, QT by EKG have not been
   concerning.
   Plan:
   *Change to Ativan 2 mgIV or po Q6h and also q2 h prn
   *Increase volume resuscitation to 150 cc/hour
   *Continue monitoring of ECG's and lactate
   *Psych continuing to follow
   Continue to f/u cultures and Echo
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-8-15**] 06:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2195-08-17 06:46:00 Physician Resident Progress Note
Chief Complaint: Fever, stiffness, paranoia
   24 Hour Events:
 EKG - At [**2195-8-16**] 12:00 PM
 EKG - At [**2195-8-16**] 05:48 PM
 EKG - At [**2195-8-16**] 07:45 PM
   [**8-16**]
   Psych recs: LP if AMS; may need EEG; increase in ativan.
   Switch ativan from IV to PO and increase it (per psych)
   Got new peripheral
   Patient with episode of tachycardia up to 160 with SBP 160s. Did not
   respond to ativan, so gave lorpessor. Was fine overnight.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2195-8-16**] 07:45 PM
   Metoprolol - [**2195-8-16**] 07:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-8-17**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 99 (72 - 161) bpm
   BP: 100/56(68) {89/39(53) - 166/120(126)} mmHg
   RR: 20 (19 - 44) insp/min
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,979 mL
                  PO:
                                                                    780 mL
                  TF:
   IVF:
                                                                  2,199 mL
   Blood products:
   Total out:
                                                                  4,230 mL
                                                                    275 mL
   Urine:
                                                                  4,230 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,251 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: None
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   311 K/uL
   12.3 g/dL
   109 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   8 mg/dL
   106 mEq/L
   139 mEq/L
   36.8 %
   11.9 K/uL
        [image002.jpg]
                             [**2195-8-15**]  08:17 PM
                             [**2195-8-16**]  04:14 AM
                             [**2195-8-17**]  04:00 AM
   WBC
   12.6
   13.1
   11.9
   Hct
   35.3
   42.1
   36.8
   Plt
   327
   363
   311
   Cr
   0.8
   0.7
   0.7
   Glucose
   55
   79
   109
   Other labs: PT / PTT / INR:12.7/28.6/1.1, CK / CKMB / Troponin-T:103//,
   Albumin:3.9 g/dL, LDH:281 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   20 year-old male with a history of asthma, anxiety and recent
   initiation of antipsychotic medications presenting with increasing
   paranoia, fevers and stiffness.
   #. Intermittent tachycardia
   #. Paranoia
   #. Leukocytosis
   #. Asthma
   Plan:
   # Fever, rigitidy: Patient remained afebrile overnight and his rigidity
   has improved with ativan. Initial presentation concerning for NMS-
   fever, rigidity, tachycardia and elevated BP, and mental status
   changes, namely catatonia/mutism and paranoia. These have largely
   improved. CK have remained stable, LDH increased. Malignant catatonia,
   a psychiatric diagnosis, also presents in this manner. Patient has no
   signs of meningitis on exam, TSH is normal, which make infection and
   thyrotoxicosis less likely. Per psychiatry patients with low serum iron
   studies have worse prognosis in NMS; patient is slightly anemic.
   - IV NS@ 150cc/hr
   - Trend CK, lactate
   - Ativan 0.5-1mg PO q3, 1mg PO PRN and 1mg IV PRN
   - EKG q6h
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count fever curve
   .
   # Paranoia
 Improved since admission with benzo. Will touch base with
   psychiatry prior to transfer/discharge to ensure appropriate follow-up
   and recommendations regarding psych medications. Given patient's
   discontinued use of marijuana this could be due to withdrawal vs. new
   onset schizophrenia (increased risk given first degree relative with
   diagnosis)vs. malignant catatonia. Unlikely to be drug related given
   patient's toxicology is negative. Also unlikely is a primary CNS
   mass/hemorrhage given negative CT.
   -treat as above with benzos, avoid neuroleptics
   -f/u any new psych recommendations
   -psych consult
   # Leukocytosis - Most concerning for infection, given fever and
   tachycardia. Blood and urine cultures were taken in the ED and are
   pending. The patient does not present with any meningeal signs on exam.
   Will continue to monitor his mental status, fever curve and WBC for
   indications of meningitis. He also has a new murmur on exam which has
   not been documented previously.
   -repeat CBC
   -f/u pending cultures
   -ETT to work-up new murmur on exam
   # Asthma - currently stable on exam. Patient taking his own
   albuterol/fluticasone IH.
   .
   # Eczema- restart outpatient topical creams.
   # FEN: IV NS@150cc/hr, monitor electrolytes closely, regular diet as
   tolerated
   .
   # Access: PIV
   .
   # PPx:  heparin SC
   .
   # Code:  presumed full
   .
   # Dispo: ICU care for now  until nursing care appropriate for floor
   .
   # Comm:  [**Name (NI) 2173**] (sister) [**Telephone/Fax (1) 2174**] (home), [**Telephone/Fax (1) 2175**] (cell)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-8-15**] 06:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2195-8-17**] 02:27 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: